US08754073B2
60.1 trans-N-tert-butyloxycarbonyl-1,2-cyclopropanediamine
Starting from dimethyl trans-1,2-cyclopropanedicarboxylate, trans-N-tert-butyloxycarbonyl-1,2-cyclopropanediamin hydrochloride may be prepared and purified analogously to cis-N-tert-butyloxycarbonyl-1,2-cyclopropanediamin hydrochloride (see 58.4). M.p: 200-202° C.

reactant | dimethyl trans-1,2-cyclopropanedicarboxylate | [C@@H]1([C@@H](C1)C(=O)OC)C(=O)OC | C7H10O4
reactant | trans-N-tert-butyloxycarbonyl-1,2-cyclopropanediamin hydrochloride | Cl.C(C)(C)(C)OC(=O)N[C@H]1[C@@H](C1)N
product | trans-N-tert-butyloxycarbonyl-1,2-cyclopropanediamine | C(C)(C)(C)OC(=O)N[C@H]1[C@@H](C1)N | C8H16N2O2
